US05756747
To a stirred suspension of 1.0 g (0.0054 mole) of 1H-imidazo[4,5-c]quinolin-4-amine in 10 mL of N,N-dimethylformamide was added 0.15 g (0.0059 mole) of sodium hydride. To this stirred mixture was added 0.74 g (0.0054 mole) of isobutyl bromide. After 30 minutes the mixture was heated at about 100° C. for one hour. The mixture was cooled to about 20° C., diluted with 20 mL of water, and the solid was separated by filtration. Recrystallization from N,N-dimethylformamide provided the known antiviral agent 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | 1H-imidazo[4,5-c]quinolin-4-amine | 0.0054 mole, 1.0 g | N1C=NC=2C(=NC=3C=CC=CC3C21)N | C10H8N4
reactant | sodium hydride | 0.0059 mole, 0.15 g | [H-].[Na+]
reactant | isobutyl bromide | 0.0054 mole, 0.74 g | C(C(C)C)Br | C4H9Br
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | CC(CN1C=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H16N4
